US07973040B2
Step 3: 1-tert-butyl 2-methyl (2S,4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate
A solution (0.35 M) of 3-chloro-6-methoxyquinoxalin-2-ol in NMP was treated with Cs2CO3 (1.5 eq) and 1-tert-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate (1.1 eq). The resulting mixture was stirred at 50° C. for 18 h, then a further portion (0.1 eq) of 1-tert-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate was added. After stirring for 2 h, the mixture was cooled and diluted with H2O and EtOAc. The organic phases were washed with aqueous HCl (1 N), saturated aqueous NaHCO3 and brine. The dried organic phase was concentrated to a residue that was purified by flash-chromatography (0-60% EtOAc/petroleum ether) to give the title compound (35% for two steps) as a solid. MS (ES+) m/z 438 (M+H)+

reactant | 3-chloro-6-methoxyquinoxalin-2-ol | 0.35 M | ClC=1C(=NC2=CC=C(C=C2N1)OC)O | C9H7ClN2O2
reactant | Cs2CO3 | 1.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-tert-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate | 1.1 eq | BrC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22BrNO7S
reactant | 1-tert-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate | 0.1 eq | BrC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22BrNO7S
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-tert-butyl 2-methyl (2S,4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate | 35% | ClC=1C(=NC2=CC(=CC=C2N1)OC)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C20H24ClN3O6
